US08106190B2
1-Chloro-2,5-pyrrolidinedione (NCS) was added at room temperature to a DMF solution of tert-butyl {(1R,2R)-2-[(5-chloro-2-cyanophenyl)amino]cyclohexyl}carbamate, followed by stirring at 80° C. for 5 hours. By post-treating the reaction liquid, tert-butyl {(1R,2R)-2-[(4,5-dichloro-2-cyanophenyl)amino]cyclohexyl}carbamate was obtained.

reactant | 1-Chloro-2,5-pyrrolidinedione | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | tert-butyl {(1R,2R)-2-[(5-chloro-2-cyanophenyl)amino]cyclohexyl}carbamate | ClC=1C=CC(=C(C1)N[C@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C18H24ClN3O2
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-butyl {(1R,2R)-2-[(4,5-dichloro-2-cyanophenyl)amino]cyclohexyl}carbamate | ClC1=CC(=C(C=C1Cl)N[C@H]1[C@@H](CCCC1)NC(OC(C)(C)C)=O)C#N | C18H23Cl2N3O2
